US06506758B2
Description 9: 3-Methoxy-4-(5,6-dichloro-1H-indol-2-yl)-benzoic acid
Ethyl 3-methoxy-4-(5,6-dichloro-1H-indol-2-yl)-benzoate (1 g, 2.7 mmol) was added to a solution of KOH (0.4 g, 7 mmol) in EtOH (50 ml) and the mixture was refluxed for 4 h. The solvent was concentrated and the residue was dissolved in water. The aqueous solution was acidified with HCl then extracted with AcOEt. The organic phase was washed with water, dried over MgSO4 and concentrated in vacuo yielding 0.89 g (2.6 mmol, yield 99%) of the title compound.

reactant | Ethyl 3-methoxy-4-(5,6-dichloro-1H-indol-2-yl)-benzoate | 2.7 mmol, 1 g | COC=1C=C(C(=O)OCC)C=CC1C=1NC2=CC(=C(C=C2C1)Cl)Cl | C18H15Cl2NO3
reactant | KOH | 7 mmol, 0.4 g | [OH-].[K+]
solvent | EtOH | 50 ml | CCO | C2H6O
product | 3-Methoxy-4-(5,6-dichloro-1H-indol-2-yl)-benzoic acid | 2.6 mmol, 0.89 g, yield 99% | COC=1C=C(C(=O)O)C=CC1C=1NC2=CC(=C(C=C2C1)Cl)Cl | C16H11Cl2NO3
